US07271168B2
e) 1-[4-(3,4-Difluoro-phenyl)-piperazin-1-yl]-3-{[2-(9H-fluoren-9-yl)-ethyl]-methyl-amino}-propan-1-one dihydrochloride
A mixture of 3-{[2-(9H-fluoren-9-yl)-ethyl]-methyl-amino}-propionic acid chloride hydrochloride (1.14 g), 4-(3,4-Difluoro-phenyl)-piperazine (587 mg), dichloromethane (25 ml) and 1 M aq. K2CO3 (25 ml) is stirred at room temperature for 1 hour. The phases are separated, the organic phase dried over sodium sulfate, filtered and evaporated. Purification by chromatography on silicagel (EtOAc/MeOH 7:3) afforded 1.2 g (100%) of a slightly colored oil. It is dissolved in 4 ml MeOH and acidified with 6 ml 1 M HCl in diethyl ether. More ether is added until the solution gets cloudy (ca. 3 ml). Crystallization at 5° afford 1.01 g (74%) of the desired product as dihydrochloride. M.p. 144°-154°. Anal: Calculated. for C29H33Cl2F2N3O.H2O: C, 61.48%; H, 6.22%; N, 7.41%. Found: C, 61.52%; H, 6.36%; N, 7.37%.

reactant | 3-{[2-(9H-fluoren-9-yl)-ethyl]-methyl-amino}-propionic acid chloride hydrochloride | 1.14 g | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)CCN(CCC(=O)Cl)C
reactant | 4-(3,4-Difluoro-phenyl)-piperazine | 587 mg | FC=1C=C(C=CC1F)N1CCNCC1 | C10H12F2N2
reactant | K2CO3 | 1 M, 25 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1 M, 6 ml | Cl | ClH
solvent | MeOH | 4 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1-[4-(3,4-Difluoro-phenyl)-piperazin-1-yl]-3-{[2-(9H-fluoren-9-yl)-ethyl]-methyl-amino}-propan-1-one dihydrochloride | 1.01 g, 74% | Cl.Cl.FC=1C=C(C=CC1F)N1CCN(CC1)C(CCN(C)CCC1C2=CC=CC=C2C=2C=CC=CC12)=O | InChI=1S/C29H31F2N3O.2ClH/c1-32(14-12-26-24-8-4-2-6-22(24)23-7-3-5-9-25(23)26)15-13-29(35)34-18-16-33(17-19-34)21-10-11-27(30)28(31)20-21;;/h2-11,20,26H,12-19H2,1H3;2*1H
